US04424231
A mixture of methyl 5-hydroxybenzofuran-2-carboxylate (4.14 g), potassium carbonate (5.95 g) and allyl bromide (3.73 ml) in dry acetone (100 ml) was refluxed and stirred for 16 hours. The solvent was evaporated and the residue was partitioned between water and ether. The ether was washed with water, dried and evaporated to give methyl 5-(prop-2-enyloxy)benzofuran-2-carboxylate (4.7 g) as a solid, characterised by NMR and mass spectral data. This ester (3.74 g) in N-methylpyrrolidinone (30 ml) was refluxed under nitrogen for 2 hr, cooled, and partitioned between water and ethyl acetate. The organic phase was washed with water, dried and evaporated to give the title ester (3.5 g), mp 114°-119°.

reactant | methyl 5-hydroxybenzofuran-2-carboxylate | 4.14 g | OC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C10H8O4
reactant | potassium carbonate | 5.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 3.73 ml | C(C=C)Br | C3H5Br
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | methyl 5-(prop-2-enyloxy)benzofuran-2-carboxylate | 4.7 g | C(C=C)OC=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C13H12O4
